US08791161B2
4-(benzylthio)-3-nitrobenzonitrile
Following General Procedure A, the title compound (580 mg, 82%) was prepared from 4-mercapto-3-nitrobenzonitrile (473 mg, 2.63 mmol), (bromomethyl)benzene (449 mg, 2.63 mmol), K2CO3 (1.81 g, 13.14 mmol) in DMF (10 ml).

reactant | 4-mercapto-3-nitrobenzonitrile | 2.63 mmol, 473 mg | SC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H4N2O2S
reactant | (bromomethyl)benzene | 2.63 mmol, 449 mg | BrCC1=CC=CC=C1 | C7H7Br
reactant | K2CO3 | 13.14 mmol, 1.81 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(benzylthio)-3-nitrobenzonitrile | 580 mg, 82% | C(C1=CC=CC=C1)SC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C14H10N2O2S
